US08648066B2
A solution of 2-nitro-4-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)aniline dihydrochloride (323 mg, 1.0 mmol), 4-chloro-2-methylquinazoline (179 mg, 1.0 mmol), and diisopropylethylamine (700 uL, 4.0 mmol) in NMP (11 mL) was heated to 90° C. and stirred for 40 min. After cooling to rt, water was added to the reaction mixture. The orange precipitate formed was collected by filtration and then dried to provide 4-[4-(2-methylquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]-2-nitroaniline (380 mg, 0.89 mmol, 89% yield) as a bright orange powder. MS (EI) for C24H21N5O3: 428 (MH+).

reactant | 2-nitro-4-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)aniline dihydrochloride | 1.0 mmol, 323 mg | Cl.Cl.[N+](=O)([O-])C1=C(N)C=CC(=C1)C=1C=CC2=C(CNCCO2)C1
reactant | 4-chloro-2-methylquinazoline | 1.0 mmol, 179 mg | ClC1=NC(=NC2=CC=CC=C12)C | C9H7ClN2
reactant | diisopropylethylamine | 4.0 mmol, 700 uL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | O | H2O
solvent | NMP | 11 mL | CN1CCCC1=O | C5H9NO
product | 4-[4-(2-methylquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]-2-nitroaniline | 0.89 mmol, 380 mg, 89% yield | CC1=NC2=CC=CC=C2C(=N1)N1CCOC2=C(C1)C=C(C=C2)C2=CC(=C(N)C=C2)[N+](=O)[O-] | C24H21N5O3
